US07943567B2
The 4,5,5,5-tetrafluoro-4-trifluoromethyl-pentanesulfonyl chloride (7.1 grams) can be dissolved in 40 mL of chloroform and added to a solution of 8.6 mL of 3-dimethylaminopropylamine in 40 mL of chloroform at 0° C.-5° C. drop-wise over 45 minutes (Tmax=5° C.) to form a mixture. The mixture can be washed successively with saturated bicarbonate solution (80 mL), water (80 mL), and brine (80 mL). The organic layer can be separated, dried over magnesium sulfate, filtered, and concentrated under vacuum to afford 8 grams (93%) of 4,5,5,5-tetrafluoro-4-trifluoromethyl-pentane-1-sulfonic acid (3-dimethylamino-propyl)-amide by NMR and LC/MS analysis.

reactant | 4,5,5,5-tetrafluoro-4-trifluoromethyl-pentanesulfonyl chloride | 7.1 grams | FC(CCCS(=O)(=O)Cl)(C(F)(F)F)C(F)(F)F | C6H6ClF7O2S
reactant | 3-dimethylaminopropylamine | 8.6 mL | CN(CCCN)C | C5H14N2
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | 4,5,5,5-tetrafluoro-4-trifluoromethyl-pentane-1-sulfonic acid (3-dimethylamino-propyl)-amide | 8 grams, 93% | CN(CCCNS(=O)(=O)CCCC(C(F)(F)F)(C(F)(F)F)F)C | C11H19F7N2O2S
